US06294558B1
1-[3-Fluoro-4-(methylsulfonyl)phenyl]-5-[4-(3-furyl)phenyl]-3-(trifluoromethyl)-1H-pyrazole. (step 2)
To a stirred solution of 5-(4-bromophenyl)-1-[3-fluoro-4-(methylsulfonyl)phenyl]-3-(trifluoromethyl)-1H-pyrazole (0.15 g, 0.324 mmol) in DME (3.9 mL) was added furan—3-boronic acid (0.044 g, 0.389 mmol), bis(triphenylphosphine)palladium(II)chloride (0.025 g, 0.04 mmol) and saturated NaHCO3 solution (1.3 mL) at room temperature under nitrogen. The mixture was heated at reflux temperature for 4 hours, and cooled down to room temperature. The reaction mixture was filtered through celite, the filtrate was poured into water and the whole was extracted with ethyl acetate (20 mL×3). The organic layer was washed with brine, dried over sodium sulfate, and concentrated in vacuo . The residue was purified by flash chromatography eluting with hexane/ethyl acetate (3/1) to give the title compound (0.066 g, 45.2% yield).

reactant | 5-(4-bromophenyl)-1-[3-fluoro-4-(methylsulfonyl)phenyl]-3-(trifluoromethyl)-1H-pyrazole | 0.324 mmol, 0.15 g | BrC1=CC=C(C=C1)C1=CC(=NN1C1=CC(=C(C=C1)S(=O)(=O)C)F)C(F)(F)F | C17H11BrF4N2O2S
reactant | furan—3-boronic acid | 0.389 mmol, 0.044 g | O1C=C(C=C1)B(O)O | C4H5BO3
reactant | NaHCO3 | 1.3 mL | C(=O)(O)[O-].[Na+]
solvent | DME | 3.9 mL | COCCOC | C4H10O2
catalyst | bis(triphenylphosphine)palladium(II)chloride | 0.04 mmol, 0.025 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 1-[3-Fluoro-4-(methylsulfonyl)phenyl]-5-[4-(3-furyl)phenyl]-3-(trifluoromethyl)-1H-pyrazole | 0.066 g, 45.2% yield | FC=1C=C(C=CC1S(=O)(=O)C)N1N=C(C=C1C1=CC=C(C=C1)C1=COC=C1)C(F)(F)F | C21H14F4N2O3S
